US20010018525A1
step 3 5-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-pentanoic acid, ethyl ester
A mixture of N-(8-indol-1-yl-octyl)-3,5-bis(3-chlorophenyl)-4-hydroxybenzamide (0.399 g, 0.68 mmol), K2CO3 (0.116 g, 0.84 mmol), and ethyl-5-bromovalerate (0.176 g, 0.84 mmol) in DMF was stirred at room temperature under nitrogen. After ˜48h, the reaction mixture was poured into water (40 ml) and extracted with EtOAc (1×20 ml, 4×10 md). The combined extracts were washed with water (3×10 ml), brine (2×10 ml), dried over Na2SO4, filtered and the filtrate concentrated in vac and dried. The crude product was purified by flash chromatography (alumina, hexane, 10% and 60% EtOAc/Hex) to give the desired product as a light yellow oil (0.432 g, 86%); (400 MHz, DMSO-d6) δ1.12-1.30 (m, 15H), 1.44-1.55 (m, 2H), 1.67-1.76 (m, 2H), 1.92 (t, J=7 Hz, 2H), 3.16-3.27 (m, 4H), 3.98 (q, J=7 Hz, 2H), 4.12 (t, J= 7.2 Hz, 2H), 6.38 (d, J=3.1 Hz, 1H), 6.95-6.99 (m, 1H), 7.06-7.10 (m, 1H), 7.32 (d, J=3.3 Hz, 1H), 7.40-7.52 (m, 6H), 7.56-7.59 (m, 2H), 7.68 (t, J=1.8 Hz, 2H), 7.87 (s, 2H), 8.53 (t, J=5.7 Hz, 1H); IR (film) 3320, 2940, 2950, 1730, 1630, 1540, cm−1; mass spectrum [(+)APCI], m′z 713 (M+H)+.

reactant | N-(8-indol-1-yl-octyl)-3,5-bis(3-chlorophenyl)-4-hydroxybenzamide | 0.68 mmol, 0.399 g | N1(C=CC2=CC=CC=C12)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)Cl)O)C1=CC(=CC=C1)Cl)=O | C35H34Cl2N2O2
reactant | K2CO3 | 0.84 mmol, 0.116 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl-5-bromovalerate | 0.84 mmol, 0.176 g | C(C)OC(CCCCBr)=O | C7H13BrO2
reactant | water | 40 ml | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-[3,3″-Dichloro-5′-(8-indol-1-yl-octylcarbamoyl)-[1,1′;3′,1″]terphenyl-2′-yloxy]-pentanoic acid, ethyl ester | 0.432 g, 86% | ClC=1C=C(C=CC1)C1=C(C(=CC(=C1)C(NCCCCCCCCN1C=CC2=CC=CC=C12)=O)C1=CC(=CC=C1)Cl)OCCCCC(=O)OCC | C42H46Cl2N2O4
